US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-(methylamino)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 10
A vial containing methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(tert-butoxycarbonyl(methyl)amino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (122 mg, 0.164 mmol) was diluted with HCl (4M in dioxane) (3 mL, 12.00 mmol). The mixture was stirred at rt. After 1.5 h of stirring at rt, LC/MS indicated the reaction was complete. The mixture was concentrated under reduced pressure. The crude product was carried forward to the next step with no additional purification. LCMS: m/e 641.5 (M−H)−, 2.73 min (method 3).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(3-(tert-butoxycarbonyl(methyl)amino)propylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.164 mmol, 122 mg | C(C)(C)(C)OC(=O)N(CCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)C | C47H70N2O5
reactant | HCl | 12.00 mmol, 4M, 3 mL | Cl | ClH
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-(methylamino)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC3)C(=C)C)C(NCCCNC)=O | C42H62N2O3
